US04636513
(6) 4-Hydroxy-1-(5-methyl-4-isoxazolylcarbonyl)-piperidine
of melting point 70.5° to 72.5° C., prepared from 5-methyl-4-isoxazolecarboxylic acid chloride and 4-hydroxypiperidine.

reactant | 5-methyl-4-isoxazolecarboxylic acid chloride | CC1=C(C=NO1)C(=O)Cl | C5H4ClNO2
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 4-Hydroxy-1-(5-methyl-4-isoxazolylcarbonyl)-piperidine | OC1CCN(CC1)C(=O)C=1C=NOC1C | C10H14N2O3
